US05688817
(a) Allyl 4-(3-tert-butyl-4-methoxybenzoyloxymethyl)benzoate
In a manner similar to Example 1(d), by reaction of 2.4 g (18 mmol) of 3-tert-butyl-4-methoxybenzoyl chloride with 1.9 g (10 mmol) of allyl 4-hydroxymethylbenzoate, 2.65 g (69%) of allyl ester are obtained in the form of a slightly yellow oil.

reactant | 3-tert-butyl-4-methoxybenzoyl chloride | 18 mmol, 2.4 g | C(C)(C)(C)C=1C=C(C(=O)Cl)C=CC1OC | C12H15ClO2
reactant | allyl 4-hydroxymethylbenzoate | 10 mmol, 1.9 g | OCC1=CC=C(C(=O)OCC=C)C=C1 | C11H12O3
product | Allyl 4-(3-tert-butyl-4-methoxybenzoyloxymethyl)benzoate | C(C)(C)(C)C=1C=C(C(=O)OCC2=CC=C(C(=O)OCC=C)C=C2)C=CC1OC | C23H26O5
